US07893058B2
Step 3: 2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-6-(trifluoromethyl)pyridine
2-Fluoro-4-iodo-6-(trifluoromethyl)pyridine (145 mg, 0.50 mmol), bis(pinacolato)diboron (254 mg, 1.00 mmol), KOAc (147 mg, 1.50 mmol) and Pd(dppf)Cl2DCM (20 mg, 0.025 mmol) are stirred under N2 in dioxane (0.5 mL) and heated at 80° C. overnight. The mixture is cooled, diluted with NaHCO3 (5% aq., 5 mL) and EtOAc (15 mL) and filtered through celite. The layers are separated and the aqueous phase extracted with further EtOAc (2×10 mL). The combined organic extracts are dried over Na2SO4 and evaporated under reduced pressure to afford the title compound as a brown oil which is used without further purification.

reactant | 2-Fluoro-4-iodo-6-(trifluoromethyl)pyridine | 0.50 mmol, 145 mg | FC1=NC(=CC(=C1)I)C(F)(F)F | C6H2F4IN
reactant | bis(pinacolato)diboron | 1.00 mmol, 254 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 1.50 mmol, 147 mg | CC(=O)[O-].[K+]
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 2-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-6-(trifluoromethyl)pyridine | FC1=NC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C(F)(F)F | C12H14BF4NO2
